US04822801
EXAMPLE EE 1-Cyclopropyl-6,7,8-trifluoro-1,4-dihydro-5-hydroxy-4-oxo-3-quinolinecarboxylic Acid
To 1.5 g of 1-cyclopropyl-6,7,8-trifluoro-1,4- dihydro-5-methoxy-4-oxo-3-quinolinecarboxylic acid was added 25 ml of hydrogen bromide in acetic acid (32%). The mixture was stirred at room temperature for 16 hours and concentrated to dryness. The residue was triturated with water:ethanol and filtered to give 1.15 g of the title compound.

reactant | 1-cyclopropyl-6,7,8-trifluoro-1,4- dihydro-5-methoxy-4-oxo-3-quinolinecarboxylic acid | 1.5 g | C1(CC1)N1C=C(C(C2=C(C(=C(C(=C12)F)F)F)OC)=O)C(=O)O | C14H10F3NO4
reactant | hydrogen bromide | 25 ml | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-Cyclopropyl-6,7,8-trifluoro-1,4-dihydro-5-hydroxy-4-oxo-3-quinolinecarboxylic Acid | 1.15 g | C1(CC1)N1C=C(C(C2=C(C(=C(C(=C12)F)F)F)O)=O)C(=O)O | C13H8F3NO4
